US07034129B2
4-([3,4-Dimethoxyphenyl]oxymethyl)benzophenone 1′
To 3,4-dimethoxyphenol (1.69 g, 11 mmol) in THF was added NaH (60% dispersion in oil, 1.2 eq., 0.53 g) and stirring continued for 1 hour. 4-Bromomethyl benzophenone (3.01 g, 11 mmol) was then added to the solution and stirring continued for a further 24 hours. The solution was concentrated in vacuo, diluted with DCM, washed with citric acid (10% aq.), NaOH (1N) dried and solvent removed under vacuum. The residue was then purified by column chromatography, eluting with petrol (40–60):EtOAc 9:1 yielding the product as a white solid (2.58 g, 68%) (Found: C, 75.73; H, 5.96. C22H20O4 requires C, 75.84; H, 5.79%), mp 74–75° C.; Rf=0.23 (Petrol:EtOAc 4:1); δH (250 MHz, CDCl3) 3.82 (3 H, s, OCH3), 3.86 (3 H, s, OCH3), 5.10 (2 H, s, CH2), 6.47 (1 H, dd, J 9, 1, ArH p- to OMe), 6.65 (1 H, d, J 1, ArH o- to 2 OR), 6.80 (1 H, d, J 9, ArH m- to 2 OR), 7.47–7.75 (5 H, m, ArH), 7.80–7.91 (4 H, m, ArH o- to C═O); δC (50.3 MHz, CDCl3) 55.8 (OCH3), 56.4 (OCH3), 69.9 (CH2O), 101.2 and 104.0 (ArCH o- to OCH2Ar), 111.7 (ArCH m- to OCH2Ar), 127.0, 128.3, 130.0 and 130.3 (ArCH o- and m- to C═O), 132.5 (ArCH p- to C═O), 137.0 and 137.5 (4° ArCC═O), 141.9 (ArCCH2O), 143.8 (4° ArCOCH2), 149.9 (4° ArCOMe p- to OCH2Ar), 153.0 (4° ArCOMe m- to OCH2Ar), 196.3 (C═O); m/z (APCl+) 349 ([M+H]+, 100%).

reactant | 3,4-dimethoxyphenol | 11 mmol, 1.69 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | NaH | 0.53 g, 1.2 eq. | [H-].[Na+]
reactant | 4-Bromomethyl benzophenone | 11 mmol, 3.01 g | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
solvent | THF | C1CCOC1 | C4H8O
product | 4-([3,4-Dimethoxyphenyl]oxymethyl)benzophenone | COC=1C=C(C=CC1OC)OCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C22H20O4
